US08557853B2
1-Bromomethyl-3-chloro-2-methoxy-benzene:
A solution of 1-chloro-2-methoxy-3-methyl-benzene (13.40 g, 85.60 mmol), NBS (15.30 g, 86.00 mmol) and a catalytic amount of benzoyl peroxide (150 mg) in CCl4 was refluxed for 30 minutes. The reaction mixture was cooled to room temperature and filtered. The precipitate was washed with pentane. The solvent was distilled off and the residue was purified by column chromatography using pentane as the eluant to afford the title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ 4.00 (s, 3H), 4.56 (s, 2H), 7.04 (t, J=7.62 Hz, 1H), 7.29 (dd, J=7.62 Hz, 1H), 7.34 (dd, J=7.92 Hz, 1H).

reactant | 1-chloro-2-methoxy-3-methyl-benzene | 85.60 mmol, 13.40 g | ClC1=C(C(=CC=C1)C)OC | C8H9ClO
reactant | NBS | 86.00 mmol, 15.30 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-3-chloro-2-methoxy-benzene | BrCC1=C(C(=CC=C1)Cl)OC | C8H8BrClO
